US09260436B2
0.5 ml of n-propylamine was added to a mixture of 450 mg of 4-chloro-2-(2-ethylsulfanylphenyl)-7-trifluoromethylquinazoline, 3 ml of acetonitrile and 3 ml of THF, and the mixture was stirred at room temperature for 30 minutes. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to obtain 495 mg of 2-(2-ethylsulfanylphenyl)-4-propylamino-7-trifluoromethylquinazoline (Compound of Present Invention 8).

reactant | n-propylamine | 0.5 ml | C(CC)N | C3H9N
reactant | 4-chloro-2-(2-ethylsulfanylphenyl)-7-trifluoromethylquinazoline | 450 mg | ClC1=NC(=NC2=CC(=CC=C12)C(F)(F)F)C1=C(C=CC=C1)SCC | C17H12ClF3N2S
reactant | acetonitrile | 3 ml | C(C)#N | C2H3N
reactant | THF | 3 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 2-(2-ethylsulfanylphenyl)-4-propylamino-7-trifluoromethylquinazoline | 495 mg | C(C)SC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)NCCC)C(F)(F)F | C20H20F3N3S
